US07678845B2
Synthesis of di(thiobenzoyl)disulfide
Potassium ferricyanide (III) (32.93 g) was dissolved in deionized water (500.0 mL). Sodium dithiobenzoate solution (350.0 mL) was transferred to a 1 L conical flask equipped with a magnetic stir bar. Potassium ferricyanide solution was added drop wise to the sodium dithiobenzoate via an addition funnel over a period of one hour under vigorous stirring. The red precipitate was filtered and washed with deionized water until the washings become colorless. The solid was dried in vacuum at room temperature overnight; the product was recrystallized from ethanol.

reactant | Sodium dithiobenzoate | 350.0 mL | C(C1=CC=CC=C1)(=S)[S-].[Na+]
solvent | water | 500.0 mL | O | H2O
catalyst | Potassium ferricyanide | 32.93 g | [Fe-3](C#N)(C#N)(C#N)(C#N)(C#N)C#N.[K+].[K+].[K+]
product | di(thiobenzoyl)disulfide | C(C1=CC=CC=C1)(=S)SSC(C1=CC=CC=C1)=S | C14H10S4
